US06162791
A solution of N-L-leucyl-L-proline methyl ester hydrochloride (2.22 g, 8 mmol) and triethylamine (2.8 mL, 20 mmol) in DMF (50 mL) was stirred at room temperature for 15 min. Then, a solution of 3-chloromethyl-5-chloro-[1,2,4]thiadiazole (0.34 g, 2 mmol) in DMF (10 mL) and tetra-butylammonium bromide (100 mg) were added and the resulting mixture was stirred at room temperature for 24 h. The reaction mixture was quenched with water and extracted into ethyl acetate. The organic layer was washed with a saturated ammonium chloride solution, brine, dried (sodium sulfate), filtered and concentrated in vacuo. Purification by column chromatography on silica gel using a mixture of hexane and ethyl acetate (7/3, 6/4 and 1/1) afforded N-(3-chloromethyl-[1,2,4]thiadiazol-5-yl)-L-leucyl-L-proline methyl ester as a white foam, 0.49 g, 65.3% yield. 1H-NMR (CDCl3) δ7.56 (d, J=8.2 Hz, 1H, NHCH), 4.78 (m, 1H, NHCH), 4.60 (dd, J=8.5, 4.6 Hz, 1H, CHCO2), 4.46 (s, 2H, CH2Cl), 4.09 (m, 1H), 3.69-3.73 (m, 1H), 3.74 (s, 3H, OMe), 2.25-2.30 (m, 1H), 1.68-2.11 (m, 6H), 0.99-1.03 (2d, 6H, 2Me); MS (m/z) 375 (M+ +1), 357, 305, 246, 218, 162, 150, 130.

reactant | N-L-leucyl-L-proline methyl ester hydrochloride | 8 mmol, 2.22 g | Cl.COC([C@H]1N(CCC1)C([C@@H](N)CC(C)C)=O)=O
reactant | triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chloromethyl-5-chloro-[1,2,4]thiadiazole | 2 mmol, 0.34 g | ClCC1=NSC(=N1)Cl | C3H2Cl2N2S
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | tetra-butylammonium bromide | 100 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N-(3-chloromethyl-[1,2,4]thiadiazol-5-yl)-L-leucyl-L-proline methyl ester | 65.3% yield | COC([C@H]1N(CCC1)C([C@@H](NC1=NC(=NS1)CCl)CC(C)C)=O)=O | C15H23ClN4O3S
